US08207370B2
Production of ethyl (2R,3R)-2-octadecanoylamino-3-hydroxyoctadecanoate
A methylene chloride solution (0.5 ml) of triethylamine (131.6 mg, 1.30 mmol) and a methylene chloride solution (0.5 ml) of formic acid (64.5 mg, 1.37 mmol) were added to a methylene chloride solution (4.0 ml) of RuCl[(R,R)-TsDPEN](p-cymene) complex (18.9 mg, 0.03 mmol) and ethyl 2-octadecanoylamino-3-oxooctadecanoate (121.6 mg, 0.20 mmol) synthesized in the same method as Example 9. After the mixture was stirred for 16 hours at room temperature, water was added thereto and extraction with methylene chloride was carried out three times. After the organic layers were combined and dried with magnesium sulfate, the solvent was removed in reduced pressure. The obtained crude product was purified by silica gel chromatography (Kieselgel 60 manufactured by Merck, hexane:ethyl acetate=4:1) to obtain the title compound (109.6 mg, yield: 90%). The product was analyzed by HPLC to find that anti-form:syn-form was 91:9 and the optical purity of the anti-form was 95% ee.

reactant | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 1.30 mmol, 131.6 mg | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
reactant | formic acid | 1.37 mmol, 64.5 mg | C(=O)O | CH2O2
reactant | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl 2-octadecanoylamino-3-oxooctadecanoate | 0.20 mmol, 121.6 mg | C(CCCCCCCCCCCCCCCCC)(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C38H73NO4
solvent | water | O | H2O
product | ethyl (2R,3R)-2-octadecanoylamino-3-hydroxyoctadecanoate | 109.6 mg, yield: 90% | C(CCCCCCCCCCCCCCCCC)(=O)N[C@@H](C(=O)OCC)[C@@H](CCCCCCCCCCCCCCC)O | C38H75NO4
